* C:\Users\JOYDEEP DAS\Desktop\codes\LTspice works\tut2\Draft4.asc
R1 N001 N002 50k
R2 N002 N006 1.3
R3 0 N007 1k
R4 0 N008 1k
C2 N001 N008 .01µF
C3 N008 N007 0.01µF
C4 N007 N006 .o1uF
V3 N009 N001 PWL(0 0 1ns 1v 2ns 1v 2.1ns 0)
XU1 0 N002 N003 N005 N004 LT1001
V1 N005 0 15
V2 N003 0 15
.tran 100ms
.lib LTC.lib
.backanno
.end
