* C:\Users\JOYDEEP DAS\Desktop\codes\LTspice works\tut2\problem.asc
V1 N007 0 SINE(0 1 50 0 0 0 10)
V2 N005 0 5
V3 0 N008 5
V4 N006 0 5
V5 0 N009 5
XU1 0 N003 N005 N008 N004 LT1001
XU2 0 NC_01 N006 N009 N002 LT1001
R1 N003 N007 1k
R2 N001 N004 1k
C1 N004 N003 1µF
C2 N002 N001 1µF
.tran 200ms
.lib LTC.lib
.backanno
.end
