* C:\Users\JOYDEEP DAS\Desktop\codes\LTspice works\tut2\problem1.asc
C1 N002 N001 1µF
C2 0 N004 1µF
XU2 N004 N002 NC_01 NC_02 vout LT1001
R1 N004 N005 1k
R2 N001 N004 1k
R3 vout N005 1k
R4 vout N002 1k
R5 N003 vout 1k
R6 0 N003 1k
D1 N005 0 D
D2 0 N005 D
XU1 N003 N002 NC_03 NC_04 N001 LT1001
V1 N005 0 PULSE(0 5 0 1ns 1ns 5ms 10ms 10)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 100ms
.lib LTC.lib
.backanno
.end
